US07888349B2
Sodium carbonate (0.140 g, 1.32 mmol), triphenylphosphine (74.7 mg, 0.33 mmol), 3-pyridine boronic acid (0.149 g, 1.21 mmol), and palladium (II) acetate (25 mg, 0.11 mmol) were sequentially added to a solution of 3-bromo-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine (0.450 g, 1.1 mmol) in n-propanol (15 mL), methanol (10 mL), and water (5 mL). The reaction was heated at 80° C. overnight and then concentrated under reduced pressure. The residue was mixed with dichloromethane, and the resulting solid was isolated by filtration. The solid was purified by column chromatography on silica gel (eluting with 2 N ammonia in methanol/chloroform in a gradient from 0% to 25%. The resulting solid was mixed with material from another run and purified again by column chromatography on silica gel under the same conditions to provide 76.8 mg of 9-(methylsulfonyl)-3-pyridin-3-yl-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine, as a beige solid, mp 302° C.

reactant | Sodium carbonate | 1.32 mmol, 0.140 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.33 mmol, 74.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-pyridine boronic acid | 1.21 mmol, 0.149 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 3-bromo-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine | 1.1 mmol, 0.450 g | BrC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3CCCN(C1)S(=O)(=O)C | C15H16BrN5O2S
solvent | n-propanol | 15 mL | C(CC)O | C3H8O
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium (II) acetate | 0.11 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 5 mL | O | H2O
product | 9-(methylsulfonyl)-3-pyridin-3-yl-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine | 76.8 mg | CS(=O)(=O)N1CC=2N(C3=C(C(=NC4=CC(=CC=C34)C=3C=NC=CC3)N)N2)CCC1 | C20H20N6O2S
